US06022883
N-diaminomethylene-3-methylsulfonyl-4-(2-pyridyloxy)-6-chlorobenzamide, hydrochloride;
N-diaminomethylene-3-methylsulfonyl-4-(3-pyridyloxy)-6-chlorobenzamide, m.p. 215-216°; with methyl 3-nitro-4-(3-pyridyloxy)-6-methylbenzoate,

reactant | N-diaminomethylene-3-methylsulfonyl-4-(3-pyridyloxy)-6-chlorobenzamide | NC(=NC(C1=CC(=C(C=C1Cl)OC=1C=NC=CC1)S(=O)(=O)C)=O)N | C14H13ClN4O4S
reactant | methyl 3-nitro-4-(3-pyridyloxy)-6-methylbenzoate | [N+](=O)([O-])C=1C=C(C(=O)OC)C(=CC1OC=1C=NC=CC1)C | C14H12N2O5
product | N-diaminomethylene-3-methylsulfonyl-4-(2-pyridyloxy)-6-chlorobenzamide, hydrochloride | Cl.NC(=NC(C1=CC(=C(C=C1Cl)OC1=NC=CC=C1)S(=O)(=O)C)=O)N | InChI=1S/C14H13ClN4O4S.ClH/c1-24(21,22)11-6-8(13(20)19-14(16)17)9(15)7-10(11)23-12-4-2-3-5-18-12;/h2-7H,1H3,(H4,16,17,19,20);1H
